US04324792
(i) 4-methoxyphenyl-2-(1-phenylmethyl)imidazolyl-methanone
Anisoyl chloride (4.3 ml) was added slowly to a stirred solution of 1-benzylimidazole (5.0 g) in dry acetonitrile (50 ml) keeping the temperature at 25°-30°. After stirring for 1 h. triethylamine (4.4 ml) was added dropwise and the mixture stirred for 18 h. then filtered. The filtrate was concentrated to dryness, and the residue taken up into ether (100 ml) and washed with acetic acid (25%, 3×50 ml), and 2 N sodium carbonate (3×50 ml), then concentrated until the title compound crystallised as a white solid, m.p. 108°-110° (3.1 g).

reactant | Anisoyl chloride | 4.3 ml | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 1-benzylimidazole | 5.0 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | triethylamine | 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-methoxyphenyl-2-(1-phenylmethyl)imidazolyl-methanone | COC1=CC=C(C=C1)C(=O)C=1N=C(NC1)CC1=CC=CC=C1 | C18H16N2O2
